US05236952
100 g of guaiacol are dissolved in 136.4 g of isobutyric anhydride, treated with 120 g of anhydrous zinc chloride (whereby all passes into solution), the reaction mixture is heated to 155° and cooled after three minutes. The residue is first subjected to a steam distillation in order to remove readily volatile constituents and is then extracted three times with 500 ml of ether each time. The organic phase is washed twice with 250 ml of water each time, once with 150 ml of saturated bicarbonate solution and again with 250 ml of water, dried over sodium sulfate and evaporated in a water-jet vacuum. The brown resin obtained is distilled in a high vacuum. The distillate of b.p. 105°-120° (6.67 Pa) is dissolved in ether, whereupon the solution is treated with n-hexane until crystallization begins. The crystals obtained are recrystallized from ether/hexane. There is obtained 4'-hydroxy-3'-methoxy-2-methyl-propiophenone in the form of colorless crystals of m.p. 86°-87°.

reactant | guaiacol | 100 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | isobutyric anhydride | 136.4 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | zinc chloride | 120 g | [Cl-].[Zn+2].[Cl-]
product | 4'-hydroxy-3'-methoxy-2-methyl-propiophenone | OC1=C(C=C(C=C1)C(C(C)C)=O)OC | C11H14O3
